US04228168
15 ml of ethyl iodide were added to 1.80 g of 3,4-dihydro-1-(3-methoxycarbonylpropyl)-β-carboline [cf. Rec. Trav. Chim., Vol. 84, No. 9-10, pp 1183-1199(1965)], and the mixture was stirred at 70°-80° C. overnight. After the reaction was completed, the mixture was concentrated to dryness, whereby 3,4-dihydro-1-(3-methoxycarbonylpropyl)-2-ethyl-β-carbolinium iodide was obtained as a crude product. The crude product was dissolved in 20 ml of ethanol, and one g of sodium borohydride was added thereto. The mixture was stirred at room temperature for one hour. Then, the mixture was extracted with ethyl acetate. The extract was washed with water, dried and evaporated to remove solvent. The residue thus obtained was purified by silica gel chromatography (Solvent: 5% methanol-chloroform), whereby 0.2 g of 1,2,3,4-tetrahydro-1-(3-methoxycarbonylpropyl)-2-ethyl-β-carboline was obtained. Yield: 11%

reactant | ethyl iodide | 15 ml | C(C)I | C2H5I
reactant | 3,4-dihydro-1-(3-methoxycarbonylpropyl)-β-carboline | 1.80 g | COC(=O)CCCC1=NCCC=2C3=CC=CC=C3NC12 | C16H18N2O2
product | 3,4-dihydro-1-(3-methoxycarbonylpropyl)-2-ethyl-β-carbolinium iodide | [I-].COC(=O)CCCC1=[N+](CCC=2C3=CC=CC=C3NC12)CC | InChI=1S/C18H22N2O2.HI/c1-3-20-12-11-14-13-7-4-5-8-15(13)19-18(14)16(20)9-6-10-17(21)22-2;/h4-5,7-8H,3,6,9-12H2,1-2H3;1H
